US08076488B2
This compound was prepared from 5-benzyloxy-2-nitrobenzamide (2.7 g, 56 mmol) in the manner described for 4-amino-3-fluorophenol, affording 1.5 g (99%) of 2-amino-5-hydroxybenzamide. 1H-NMR (CDCl3) δ 7.41 (d, J=8.1 Hz, 1H), 7.16 (dd, J=8.1, 1.6 Hz, 1H), 7.13 (d, J=1, 6 Hz, 1H), 3.93 (s, 3H); MS GC-MS (M+=211, RT=6.15 min).

reactant | 5-benzyloxy-2-nitrobenzamide | 56 mmol, 2.7 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C14H12N2O4
reactant | 4-amino-3-fluorophenol | NC1=C(C=C(C=C1)O)F | C6H6FNO
product | 2-amino-5-hydroxybenzamide | 1.5 g, 99% | NC1=C(C(=O)N)C=C(C=C1)O | C7H8N2O2
